* source WSK2024_MA1
.EXTERNAL INPUT S1
.EXTERNAL INPUT S2
.EXTERNAL INPUT S3
.EXTERNAL INPUT S4
.EXTERNAL INPUT V-
.EXTERNAL INPUT V+
X_U1         N02116 N02585 0 N02120 N02597 0 S4 S1 N02128 S2 awblm2917n14
V_V1         S1 0 DC 0Vdc AC 5Vac 
V_V2         S2 0 DC 0Vdc AC 2.5Vac 
C_C1         0 S4  1u  TC=0,0 
R_R1         N02128 S3  10k TC=0,0 
V_V3         S3 0 1Vdc
V_V4         S4 0 10Vdc
X_U2         N02116 N02120 N02585 N02597 V+ 0 V- AD830/AD
V_V5         V- 0 -5Vdc
V_V6         V+ 0 5Vdc
